data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]C[C:10]2=[CH:11][C:12](=[C:13](C=C2)[O:14]C)C.C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C[C:12]1=[CH:11][C:10]2(C[CH2:20]2)C=C[C:13]1=[O+:14]C.C(=O)O 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][CH:21]1CC(C[C+:22]1C)CC.CC[OH:10]>>[H:20][OH+:10]CC.CCC1C[CH:21]=[C:22](C1)C 10=20;20,21=21,22
[H:20][O+:21](CC1=CC=CC=C1)C(CCCCCCCC=CCCCCCCCC)([N+]2=CC=C(C=C2)N(C)C)[O-].CN(C)C1=CC=[N:10]C=C1.CCCCCCCCC=CCCCCCCCC(=O)[O-].C1CCC(CC1)NC(=O)NC2CCCCC2>>[H:20][N+:10]1=CC=C(C=C1)N(C)C.CCCCCCCCC=CCCCCCCCC([N+]1=CC=C(C=C1)N(C)C)([O-])[O:21]CC2=CC=CC=C2.CCCCCCCCC=CCCCCCCCC(=O)[O-].C1CCC(CC1)NC(=O)NC2CCCCC2 10=20;20,21=21
C[O:21][OH:20].C[SH:10]>>C[O-:21].C[SH+:10][OH:20] 10=20;20,21=21
C1CN(CC[C:20]1=[O+:21]CCO)C2=CC=C(C=C2)C#N.[OH2:10].C1CCOC1.OS(=O)(=O)[O-]>>C1CN(CC[C:20]1([OH2+:10])[O:21]CCO)C2=CC=C(C=C2)C#N.C1CCOC1.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][NH2+:21]CC(=O)O[Ca]O.O[Ca][OH:10]>>[H:20][OH+:10][Ca]O.C(C(=O)O[Ca]O)[NH2:21] 10=20;20,21=21
[B:20](F)(F)F.CCCCC=CC=C[O:10]C(C)OCC>>[B-:20]([O+:10](C=CC=CCCCC)C(C)OCC)(F)(F)F 10=20,
[H:20][N+:21](=CC1=CC=C(C=C1)OC)CC=C.[OH-:10].C=CCN>>[H:20][OH:10].COC1=CC=C(C=C1)C=[N:21]CC=C.C=CCN 10=20;20,21=21
[H:20][NH+:21](CC(=O)NC1=C(C=C(C=C1)OCCOC(=O)C)OC)C(CC(C)(C)C)O.CC[N:10](CC)CC.C(=O)(C(F)(F)F)[O-]>>[H:20][N+:10](CC)(CC)CC.CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[NH:21]C(CC(C)(C)C)O)OC.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CCO[C:20](=[OH+:21])CCC#N.[OH2:10]>>CCO[C:20](CCC#N)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][O+:21]=C(C)SCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCSC(=[O:21])C 10=20;20,21=21
[H:20][OH+:21]C.COC(=[NH:10])CC=C.[Cl-]>>[H:20][NH+:10]=C(CC=C)OC.C[OH:21].[Cl-] 10=20;20,21=21
C[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.O[S+:20](=O)=O>>C[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
C1=C[CH:10]=[C:11](C=C1)Br.[N+:20](=O)=[O:21]>>C1=C[CH:10]([C+:11](C=C1)Br)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)CCCCCCCC=CCCCCCCCC.C1CCC(CC1)N=C=[N:10]C2CCCCC2.CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO>>[H:20][N+:10](=C=NC1CCCCC1)C2CCCCC2.CCCCCCCCC=CCCCCCCCC(=O)[O-:21].CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22][CH:23]=[C:24]1O)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
C[CH:20]1C[OH+:21]1.[Br-:10]>>C[CH:20](C[OH:21])[Br:10] 10=20;20,21=21
CC1(C2C[CH2:10][C:11](C2)([C+:20]1C3=C(C=C(C=C3)Cl)N)C)C.CO.[Cl-]>>C[C+:11]1CC2C[CH2:10][C:20]1(C2(C)C)C3=C(C=C(C=C3)Cl)N.CO.[Cl-] 10,11=10,20
CC1=CN(C(=O)NC1=O)C2CC(C(O2)COC(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O[PH+:20](N(C(C)C)C(C)C)OCCC#N.C1=NN=N[N-:10]1.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O>>CC1=CN(C(=O)NC1=O)C2CC(C(O2)COC(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O[PH:20]([N:10]6C=NN=N6)(N(C(C)C)C(C)C)OCCC#N.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O 10=20,
CCO[C:20]1(C=CC=C[C-:10]1[N+](=O)[O-])[Cl:21]>>CCO[C:20]1=[C:10](C=CC=C1)[N+](=O)[O-].[Cl-:21] 10=20;20,21=21
C1=CC(=CC(=C1)[NH2+:11][Fe-:10](Br)(Br)Br)Br>>C1=CC(=CC(=C1)[NH2:11])Br.[Fe:10](Br)(Br)Br 10,11=11
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=CC(=CC=C1C=CC[O-:10])Cl.C(Br)(Br)Br>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CC=CC4=CC=C(C=C4)Cl)Br.C(Br)(Br)Br 10=20,
[B-]([O:12][CH:11]=[CH:10]C=CCCCC)(F)(F)F.CC[O+:21]=[CH:20]C>>[B-]([O+:12]=[CH:11][CH:10](C=CCCCC)[CH:20](C)[O:21]CC)(F)(F)F 10,11=10,20;20,21=21;12=11
[H:10][AlH3-:11].CC[CH:20]=[O:21]>>[H:10][CH:20](CC)[O-:21].[AlH3:11] 10,11=10,20;20,21=21
[H:20][OH2+:21].CCC(CC1(CCCCC1=C)CC(=[O:10])O)O>>[H:20][O+:10]=C(CC1(CCCCC1=C)CC(CC)O)O.[OH2:21] 10=20;20,21=21
CC(C)[CH2:20][Br:21].C[C:11](=[CH:10]C(=O)OC)[O-:12]>>CC(C)[CH2:20][CH:10]([C:11](=[O:12])C)C(=O)OC.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](C)(C)C(C)C.[I-:10]>>[H:20][I:10].CC(C)[N:21](C)C 10=20;20,21=21
[H:20][C:21](C1=C(C(=C(C=C1)OC)C(C)C)OC)(C2=C(CCCC2(C)C)C)[O:22][I+:23]3(C4=C(C=CC=C4)C(=O)O3)OC(=O)C.C1=CC=[N:10]C=C1.CC(=O)[O-].C1=CC=[NH+]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC1=C(C(CCC1)(C)C)[C:21](=[O:22])C2=C(C(=C(C=C2)OC)C(C)C)OC.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)[O-].C1=CC=[NH+]C=C1 10=20;22,23=23;20,21=21,22
CC1CC(C2C(=C)C1(CCC2(C)C=C)C)[O+]([Si-:10](C)(C)(C)[Cl:11])[Zn-](Cl)Cl>>CC1CC(C2C(=C)C1(CCC2(C)C=C)C)[O+]([Si:10](C)(C)C)[Zn-](Cl)Cl.[Cl-:11] 10,11=11
CC(=C)O[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C(F)(F)(F)S(=O)(=O)[O-:21].CC(=C)O[S:20](=O)(=[O:10])C(F)(F)F 10=20;20,21=21
C[C:20]1(CC=C([N:10]1C2=CC=C(C=C2)F)C3=CC=C(C=C3)S(=O)(=O)C)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>C[C:20]1=[N+:10](C(=CC1)C2=CC=C(C=C2)S(=O)(=O)C)C3=CC=C(C=C3)F.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[H:20][OH2+:21].C[N:10](C)C=C>>[H:20][N+:10](C)(C)C=C.[OH2:21] 10=20;20,21=21
C[S-:10].C1C[S:20][S:21]C1>>C[S:10][S:20]CCC[S-:21] 10=20;20,21=21
